US07473784B2
To a solution of 5-((2-(2-fluorophenyl)-1,3-dithian-2-yl)methyl)-N-isopropylthiazolo[5,4-b]pyridin-2-amine (0.61 g, 1.45 mmol, 1.0 eq.) in MeOH (73 mL) and water (6 mL) were added HgO (0.83 g, 3.83 mmol, 2.6 eq.) and HgCl2 (1.83 g, 6.74 mmol, 4.6 eq.). After stirring for 15 min., the solution was refluxed for another 15 min. and cooled to room temperature. The precipitate was removed, and the filtrate was concentrated in vacuo. The residue was diluted with EtOAc and water, and the layers were separated. The organic layer was washed with saturated aqueous NaHCO3 and brine, dried over Na2SO4, filtered and concentrated in vacuo. Acetone (7 mL), water (0.1 mL, 5.56 mmol, 3.8 eq.), and TsOH.H2O (0.0342 g, 0.180 mmol, 0.1 eq.) were added, and the reaction was stirred overnight and concentrated in vacuo. The residue was diluted with CH2Cl2 and water, and the layers were separated. The organic layer was washed with saturated aqueous NaHCO3 and brine, dried over Na2SO4, filtered and concentrated in vacuo. Silica gel chromatography using CH2Cl2:MeOH (15:0.1) as eluent afforded 1-(2-fluorophenyl)-2-(2-(isopropylamino)thiazolo[5,4-b]pyridin-5-yl)ethanone as a yellow solid (0.1994 g, 42% yield).

reactant | 5-((2-(2-fluorophenyl)-1,3-dithian-2-yl)methyl)-N-isopropylthiazolo[5,4-b]pyridin-2-amine | 1.45 mmol, 0.61 g, 1.0 eq. | FC1=C(C=CC=C1)C1(SCCCS1)CC1=CC=C2C(=N1)SC(=N2)NC(C)C | C20H22FN3S3
reactant | Acetone | 7 mL | CC(=O)C | C3H6O
reactant | TsOH.H2O | 0.180 mmol, 0.0342 g, 0.1 eq. | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | MeOH | 73 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
catalyst | HgCl2 | 6.74 mmol, 1.83 g, 4.6 eq. | Cl[Hg]Cl
solvent | water | 5.56 mmol, 0.1 mL, 3.8 eq. | O | H2O
product | 1-(2-fluorophenyl)-2-(2-(isopropylamino)thiazolo[5,4-b]pyridin-5-yl)ethanone | 0.1994 g, 42% yield | FC1=C(C=CC=C1)C(CC1=CC=C2C(=N1)SC(=N2)NC(C)C)=O | C17H16FN3OS
